US04874856
1-(Pivaloyloxy)ethyl 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(hydroxyimino)acetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylate
To a mixture of 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylic acid (250 mg, 0.61 mmol), K2CO3 (124 mg, 0.90 mmol) and 18-crown-6 (24 mg) in DMF (2.5 ml) was added 1-pivaloyloxyethyl iodide (461 mg, 1.8 mmol) at 5° C. and the mixture was stirred for 45 min at the same temperature. The mixture was diluted with ethyl acetate, washed with water and evaporated under reduced pressure. The residue was chromatographed on a column of silica gel (10 g) and the column was eluted with chloroform containing 1% methanol. The fractions containing the desired product were combined and evaporated under reduced pressure. The residue was dissolved in a small amount of benzene and freeze-dried to give 72 mg (21%) of the product as an amorphous powder.

reactant | 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylic acid | 0.61 mmol, 250 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C)C(=O)O)C1=O)=N/O | C15H15N5O5S2
reactant | K2CO3 | 0.90 mmol, 124 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 24 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 1-pivaloyloxyethyl iodide | 1.8 mmol, 461 mg | C(C(C)(C)C)(=O)OC(C)I | C7H13IO2
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Pivaloyloxy)ethyl 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(hydroxyimino)acetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylate | 72 mg, 21% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C)C(=O)OC(C)OC(C(C)(C)C)=O)C1=O)=N/O | C22H27N5O7S2
